US07495104B2
4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (100 mg) and 4-bromophenylboronic acid (80 mg) were dissolved in a mixed solution composed of dichloromethane (5 ml) and triethylamine (0.07 ml) to prepare a solution. Copper(II) acetate (50 mg) was added to the solution, and the mixture was stirred at room temperature for 16 hr. The stirred mixture was filtered, and the filtrate was then concentrated. The crude thus obtained was purified by chromatography on silica gel to give (4-bromophenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]amine (70 mg).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | 4-bromophenylboronic acid | 80 mg | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | Copper(II) acetate | 50 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
product | (4-bromophenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]amine | 70 mg | BrC1=CC=C(C=C1)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C23H19BrN2O3
